US07157487B2
Ethyl 2-nitrophenyl)acetate (12.3 g, 58.6 mmol) and isoamyl nitrate (8.92 g, 76.1 mmol) were dissolved in ethanol (100 ml). Sodium methoxide (19.9 ml, 58.6 mmol, a 20% solution in ethanol) was added, followed by stirring at 50° C. for 1.5 hours. The reaction mixture was cooled to room temperature and neutralized with 1M HCl (30 ml), followed by extraction with ether. The extract was dried over anhydrous magnesium sulfate and distilled under reduced pressure to remove the solvent. The residue was crystallized by the addition of chloroform/n-hexane and the crystals were dried under reduced pressure for 18 hours. The crystals thus obtained were dissolved in 1,2-dimethoxyethane (100 ml) and to the resulting solution, a solution of sodium hydride (2.81 g, 70.3 mmol) in 1,2-dimethoxyethane (100 ml) was added in portions. The reaction mixture was stirred at 150° C. for 8 hours. Under cooling, the reaction mixture was poured to a saturated aqueous solution of sodium bicarbonate, followed by extraction with ether. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by silica gel column chromatography (middle pressure chromatography system Yamazen, n-hexane/ethyl acetate 9:1, 20 ml/min, φ 80×300) to give ethyl benzo(d)isoxazole-3-carboxylate (5.75 g, 51%) as a brown solid.

reactant | acetate | 58.6 mmol, 12.3 g | C(C)(=O)[O-]
reactant | isoamyl nitrate | 76.1 mmol, 8.92 g | [N+](=O)(OCCC(C)C)[O-] | C5H11NO3
reactant | Sodium methoxide | C[O-].[Na+]
reactant | HCl | 1M, 30 ml | Cl | ClH
reactant | sodium hydride | 70.3 mmol, 2.81 g | [H-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ethanol | 100 ml | C(C)O | C2H6O
solvent | 1,2-dimethoxyethane | 100 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 100 ml | COCCOC | C4H10O2
product | ethyl benzo(d)isoxazole-3-carboxylate | 5.75 g, 51% | O1N=C(C2=C1C=CC=C2)C(=O)OCC | C10H9NO3
